US07008950B1
3-(4-Isopropylphenyl)-2,2-dimethyl-2,3-dihydrobenzofuran-6-ol
A mixture of 1-(2,4-dimethoxyphenyl)-1-(4-isopropylphenyl)-2-methylpropan-1-ol (5.58 g, 17.0 mmol) and 48% hydrobromic acid (30 mL) was heated under reflux for 24 hours in an argon atmosphere. After the reaction mixture was cooled, an aqueous saturated sodium hydrogencarbonate was added to the mixture, which was then extracted twice with ethyl acetate. The organic layers were combined, washed with brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane/ethyl acetate=20/1 to 10/1) to obtain the title compound (2.43 g, yield 51%).

reactant | 1-(2,4-dimethoxyphenyl)-1-(4-isopropylphenyl)-2-methylpropan-1-ol | 17.0 mmol, 5.58 g | COC1=C(C=CC(=C1)OC)C(C(C)C)(O)C1=CC=C(C=C1)C(C)C | C21H28O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | hydrobromic acid | 30 mL | Br | BrH
product | 3-(4-Isopropylphenyl)-2,2-dimethyl-2,3-dihydrobenzofuran-6-ol | 2.43 g, yield 51% | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C=CC(=C2)O)(C)C | C19H22O2
